US04020071
A suspension of the sodium salt of (2,4-dimethyl-5-pyrimidylcarbonyl)-acetone in anhydrous toluene is saturated with hydrogen chloride and then reacted with thionyl chloride in a known manner. Reduction of the reaction product gives 1-(2,4-dimethyl-5-pyrimidyl)-3-chloro-butan-1-ol hydrochloride which is used without additional purification.

reactant | sodium | [Na] | Na
reactant | (2,4-dimethyl-5-pyrimidylcarbonyl)-acetone | CC1=NC=C(C(=N1)C)C(=O)CC(C)=O | C10H12N2O2
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2,4-dimethyl-5-pyrimidyl)-3-chloro-butan-1-ol hydrochloride | Cl.CC1=NC=C(C(=N1)C)C(CC(C)Cl)O | InChI=1S/C10H15ClN2O.ClH/c1-6(11)4-10(14)9-5-12-8(3)13-7(9)2;/h5-6,10,14H,4H2,1-3H3;1H
